US06340691B1
Ethyl[(4-hydroxyphenyl)sulfanyl](1-napthyl)acetate was prepared according to the general method as outlined in Example 1 (Step 1). Starting from ethyl bromo(1-napthyl)acetate (11.0 g, 38 mmol) and 4-mercaptophenol (4.8 g, 38 mmol), 8.14 g of ethyl[(4-hydroxyphenyl)sulfanyl](1-napthyl)acetate was isolated. Yield (64%); amber oil; MS 337.1 (M−H)−

reactant | ethyl bromo(1-napthyl)acetate | 38 mmol, 11.0 g | BrC(C(=O)OCC)C1=CC=CC2=CC=CC=C12 | C14H13BrO2
reactant | 4-mercaptophenol | 38 mmol, 4.8 g | SC1=CC=C(C=C1)O | C6H6OS
product | ethyl[(4-hydroxyphenyl)sulfanyl](1-napthyl)acetate | 8.14 g | C(C)OC(C(C1=CC=CC2=CC=CC=C12)SC1=CC=C(C=C1)O)=O | C20H18O3S
